US07893064B2
A. Preparation of 4-amino-6-[1-(3-fluoro-benzyl)-1H-indazol-5-ylamino]-pyrimidine-5-carbaldehyde
To a mixture of 4-amino-6-chloro-pyrimidine-5-carbaldehyde (95.5 mg, 0.61 mmol) and 1-(3-fluoro-benzyl)-1H-indazol-5-ylamine (147 mg, 0.61 mmol) in DMSO (1.5 mL) was added diisopropylethylamine (DIEA, 79 mg, 0.61 mmol). The mixture was stirred at 100° C. for 2 h, cooled to room temperature, then partitioned between ethyl acetate and H2O. The combined ethyl acetate extracts were dried over Na2SO4 and evaporated to afford a yellow solid, which was used in the next step without further purification.

reactant | 4-amino-6-chloro-pyrimidine-5-carbaldehyde | 0.61 mmol, 95.5 mg | NC1=NC=NC(=C1C=O)Cl | C5H4ClN3O
reactant | 1-(3-fluoro-benzyl)-1H-indazol-5-ylamine | 0.61 mmol, 147 mg | FC=1C=C(CN2N=CC3=CC(=CC=C23)N)C=CC1 | C14H12FN3
reactant | diisopropylethylamine | 0.61 mmol, 79 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | 4-amino-6-[1-(3-fluoro-benzyl)-1H-indazol-5-ylamino]-pyrimidine-5-carbaldehyde | NC1=NC=NC(=C1C=O)NC=1C=C2C=NN(C2=CC1)CC1=CC(=CC=C1)F | C19H15FN6O
